US07432289B2
N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)trifluoroacetamide
5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide (30 mg, 0.11 mmol) and trifluoroacetic acid (28.5 mg, 0.25 mmol) were mixed in THF (3 ml). Carbodiimde resin (295 mg, 0.31 mmol) was added and shaking continued for 72 h. The reaction was filtered, the resin washed with THF and methanol and the combined filtrate and washings filtered through an SPE (SCX), to give, after evaporation of the solvent under vacuum, N-(4′-{[(cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)trifluoracetamide. NMR; δH [2H6]—DMSO 11.25,(1H, s), 8.62,(1H, t), 7.92,(2H, d), 7.60,(1H, dd), 7.55,(1H, d), 7.43,(2H, d), 7.34,(1H, d), 3.16,(2H, t), 2.21,(3H, s), 1.04,(1H, m), 0.43,(2H, m), 0.24,(2H, m). LCMS: retention time 3.29 min, MH+377.

reactant | 5′-Amino-N-(cyclopropylmethyl)-2′-methyl-1,1′-biphenyl-4-carboxamide | 0.11 mmol, 30 mg | NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)NCC1CC1)C | C18H20N2O
reactant | trifluoroacetic acid | 0.25 mmol, 28.5 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-(4′-{[(Cyclopropylmethyl)amino]carbonyl}-6-methyl-1,1′-biphenyl-3-yl)trifluoroacetamide | C1(CC1)CNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1C)NC(C(F)(F)F)=O | C20H19F3N2O2
